US05559230
To 5-(N-methyl-N-oxiranylmethylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.62 g) is added trifluoroacetic acid (1.22 ml) under ice-cooling and the mixture is stirred for 4 hours. The reaction solution is neutralized with aqueous sodium carbonate solution, and extracted three times with dichloromethane. The extract is washed with saturated saline solution and dried over magnesium sulfate. The solvent is distilled off and the resulting residue is dissolved in methanol (10 ml). Thereto is added 40% aqueous sodium hydroxide solution (10 ml) and water (10 ml), and the mixture is stirred at room temperature overnight. Methanol is distilled off and the resulting residue is purified by silica gel column chromatography (eluent; dichloromethane:methanol=30:1) to give 5-[N-methyl-N-(2,3-dihydroxypropyl)amino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (0.23 g) as colorless amorphous.

reactant | 5-(N-methyl-N-oxiranylmethylamino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.62 g | CN(CC1OC1)C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C29H31N3O3
reactant | trifluoroacetic acid | 1.22 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 5-[N-methyl-N-(2,3-dihydroxypropyl)amino)-1-[4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 0.23 g | CN(CC(CO)O)C1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)=O | C29H33N3O4
